US09399623B2
Step 2: 6-Chloro-2-cyclopentyl-quinoline-5-carboxylic acid ((1R,3R)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide
The title compound was synthesized according to the procedure described in example 126 using 6-chloro-2-cyclopent-1-enyl-quinoline-5-carboxylic acid ((1R,3R)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide, palladium on carbon and triethylsilane. 1H NMR (400 MHz, DMSO-d6): δ 8.59 (t, J=6.01 Hz, 1H), 8.10 (d, J=8.82 Hz, 1H), 7.96 (d, J=9.22 Hz, 1H), 7.75 (d, J=9.23 Hz, 1H), 7.59 (d, J=8.81 Hz, 1H), 3.35-3.39 (m, 1H), 3.29 (s, 2H), 2.06-2.09 (m, 2H), 1.78-1.87 (m, 4H), 1.69-1.75 (m, 3H), 1.47-1.61 (m, 4H), 1.47-1.48 (m, 1H), 1.23-1.29 (m, 1H), 1.03 (t, J=12.81 Hz, 1H), 0.83-0.84 (m, 3H), 0.73-0.76 (m, 1H). m/z: 401.2 [M+H]+

reactant | 6-chloro-2-cyclopent-1-enyl-quinoline-5-carboxylic acid ((1R,3R)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide | O[C@]1(C[C@@H](CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1=CCCC1 | C23H27ClN2O2
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
catalyst | palladium on carbon | [Pd] | Pd
product | 6-Chloro-2-cyclopentyl-quinoline-5-carboxylic acid ((1R,3R)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide | O[C@]1(C[C@@H](CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CCCC1 | C23H29ClN2O2
